US05250690
2-(4-((6-Fluoro-2-quinoxalinyl)oxy)phenoxy)-N-(4-(trifluoromethoxy)phenyl)propanthioamide
A mixture of 2.0 g (4.1 mmol) of 2-(4-((6-fluoro-2-quinoxalinyl)oxy)phenoxy)-N-(4-(trifluoromethoxy)phenyl)propanamide and 40 ml of dry THF in a 100 ml flask was placed in a water-filled ultrasonic bath. Phosphorous pentasulfide (0.22 g) was added and the mixture sonicated while maintaining the reaction temperature below 40° C. by occasional addition of ice to the water bath. Additional P2S5 (1.76 g) was added in portions at 20 minute intervals over the next hour. Sonication was continued for an additional 2 hours and the mixture then filtered and the solid washed well with methylene chloride. The combined filtrates were treated with charcoal, filtered and evaporated to dryness. The residue was purified first by chromatography over silica gel, eluting with CH2Cl2, and then by preparative scale HPLC, eluting with 85:15 hexane: acetone. This left 1.1 g (53 percent of theoretical) of the above-named product as a yellow glassy solid. (Compound 34)

reactant | 2-(4-((6-fluoro-2-quinoxalinyl)oxy)phenoxy)-N-(4-(trifluoromethoxy)phenyl)propanamide | 4.1 mmol, 2.0 g | FC=1C=C2N=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C)C=C1 | C24H17F4N3O4
reactant | THF | 40 ml | C1CCOC1 | C4H8O
reactant | P2S5 | 1.76 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | water | O | H2O
product | 2-(4-((6-Fluoro-2-quinoxalinyl)oxy)phenoxy)-N-(4-(trifluoromethoxy)phenyl)propanthioamide | FC=1C=C2N=CC(=NC2=CC1)OC1=CC=C(OC(C(NC2=CC=C(C=C2)OC(F)(F)F)=S)C)C=C1 | C24H17F4N3O3S
